US06342065B1
Synthesis of 95/5 l-lactide/caprolactone Copolymer
In a typical reaction, l-lactide (6.67 moles, 960.5 g) and ε-caprolactone (0.35 moles, 39.9 g) were polymerized using decyl alcohol (7.02×10−3 moles, 1.11 g) as the initiator and stannous octoate (3.51×10−4 moles, 1.76 ml of 0.2 M solution in toluene) as the catalyst. The monomer to initiator ratio was 1,000 to 1; the monomer to catalyst ratio was 20,000 to 1. The reaction was carried out in a stainless steel resin kettle with a mechanical stirrer. The charge was dried under vacuum at 37° C. for 30 min. and 50° C. for 30 min. The monomer was then melted at 110° C. under positive argon pressure. Once melted, the charge was stirred at 32 rpm and heated to 140° C. After a short time at 140° C. the polymer solidified and could no longer be stirred. The polymerization was carried out for 48 hours at 140° C. followed by 16 hours at 120° C. The resulting polymer was characterized using GPC, DSC, viscosity, and carbon and proton NMR. The results for the three polymer lots made by this general method are summarized in Table I.

reactant | l-lactide | 6.67 moles, 960.5 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | ε-caprolactone | 0.35 moles, 39.9 g | C1(CCCCCO1)=O | C6H10O2
reactant | decyl alcohol | 7.02×10−3 moles, 1.11 g | C(CCCCCCCCC)O | C10H22O
reactant | stannous octoate | 3.51×10−4 moles, 0.2 M, 1.76 ml | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | l-lactide caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
